US08039503B2
E14.1. Synthesis of 1′-(2-furoyl)spiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidine]-5,6-dione (Compound 39)
To a solution of spiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidine]-5,6-dione (0.1 g, 0.33 mmol) in dichloromethane (3.0 mL) was added 2-furoyl chloride (0.050 g, 0.40 mmol) followed by triethylamine (0.114 mL, 0.79 mmol). The reaction mixture was stirred for 1 h at room temperature. The organic layer was separated, washed with water (2.0 mL), dried with sodium sulfate and concentrated under vacuum. The crude product was crystallized from EtOAc and hexanes to give the desired product as a purple solid (0.08 g, 61%). M.p.=165° C.; 400 MHz 1H NMR (DMSO-d6) δ 7.89-7.85 (m, 3H), 7.78 (t, 1H), 7.57 (t, 1H), 7.02 (d, J=3.6 Hz, 1H), 6.63 (d, J=3.6 Hz, 1H), 4.24 (d, 2H), 3.13 (s, 2H), 2.15 (brs, 2H), 2.08 (brs, 2H), 1.95 (m, 2H); LCMS: 396 [M+H].

reactant | spiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidine]-5,6-dione | 0.33 mmol, 0.1 g | N1CCC2(CC1)CSC1=C(O2)C2=CC=CC=C2C(C1=O)=O | C16H15NO3S
reactant | 2-furoyl chloride | 0.40 mmol, 0.050 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | triethylamine | 0.79 mmol, 0.114 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | 1′-(2-furoyl)spiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidine]-5,6-dione | 0.08 g, 61% | O1C(=CC=C1)C(=O)N1CCC2(CC1)CSC1=C(O2)C2=CC=CC=C2C(C1=O)=O | C21H17NO5S
